2175-04-06 23:14:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   48M found down, last seen 3 weeks ago
 today checked on by neighbors,
   found unresponsive on floor of home. Patient reports no oral intake
   other than water in a few days - no complaints beyond weakness.
   EMT's measured SBP of 80's.
   In ER 80's/40's, HR 114. Guaiac positive. Given 6.5 L  IVF and
   BPstabilized. Head CT showed atrophy. Abd CT showed diffuse colonic
   thickening consistent with colitis - given cipro.
   PMHx:
   EtOH abuse
   Ascites presumably due to cirrhosis  - has had paracentesis
   History obtained from Patient, housestaff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2175-4-6**] 09:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Diarrhea
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2175-4-6**] 11:13 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.8
C (96.4
   HR: 110 (110 - 117) bpm
   BP: 99/62(71) {82/49(57) - 108/65(136)} mmHg
   RR: 14 (13 - 19) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             6,700 mL
   PO:
             TF:
   IVF:
   2,200 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  6,700 mL
   Respiratory support
   Ventilator mode: RA
   SpO2: 98%
   ABG: ////
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Distended, non-tender
   Extremities: Right: Absent, Left: Absent edema
   Skin:  Not assessed, spiders
   Neurologic: awake, interactive, Oriented (to): self and [**Hospital1 **], asterixis
   Labs / Radiology
   7.4 g/dL
   201 K/uL
   123
   0.9
   24
   5.0
   39
   88
   115
   21.9 %
   13.9 K/uL
        [image002.jpg]
                             [**2175-4-6**]  10:03 PM
   WBC
   13.9
   Hct
   21.9
   Plt
   201
   Other labs: PT / PTT / INR://2.8, CK / CKMB / Troponin-T://neg, ALT /
   AST:30/42, Alk Phos / T Bili:52/2.7, Amylase / Lipase:/44,
   Differential-Neuts:81.0 %, Lymph:9.5 %, Mono:9.3 %, Eos:0.0 %,
   Albumin:1.4
   Fluid analysis / Other labs: lactate 4.6
   Imaging: CXR unremarkable
   Abd CT significant ascites, shrunken, nodular liver, thickening of
   colon
   Head CT brain atrophy
   Assessment and Plan
   hypotension - likely related to volume contraction in setting of
   cirrhosis, doubt sepsis, will continue to volume resuscitate,
   paracentesis needed
   likely cirrhosis - continue lactulose, check hep serologies, check
   ultrasound
   ? colitis - symptoms not compatible with infection, ischemia a
   consideration, will follow, volume resuscitate as above
   anemia - guaiac pos, follow CBC, transfuse for Hg < 7
   hyponatremia - poor PO's beyond H2O recently, will follow, correct
   slowly
   EtOH - follow, persistent tachy likely due to volume issue, received
   thiamine/folate already
   ICU Care
   Nutrition:
   Comments: clears
   Glycemic Control:
   Lines:
   16 Gauge - [**2175-4-6**] 09:00 PM
   18 Gauge - [**2175-4-6**] 09:00 PM
   20 Gauge - [**2175-4-6**] 09:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 37 minutes
   Patient is critically ill
   ------ Protected Section ------
   Shortly after patient was evaluated he underwent a diagnostic
   paracentesis. After this procedure he began vomiting blood. He likely
   aspirated and developed respiratory distress requiring intubation. His
   CXR shows new bilateral infiltrates. His vent was adjusted to improve
   his acidosis. During these events he lost an IV and a right femoral CVL
   was placed. IJ access was avoided because of his active vomiting. The
   GI service was alerted and he will undergo an EGD to evaluate what is
   likely a variceal bleed. He is receiving octreotide and a protonix
   drip. He has received 6 unit of PRBC
s and 2 more will be transfused
   because of ongoing hematemesis and blood loss anemia.
   cc time: 35 min.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2175-4-7**] 02:20 ------

2175-04-07 08:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PARACENTESIS - At [**2175-4-6**] 10:00 PM
 NASAL SWAB - At [**2175-4-6**] 10:00 PM
 URINE CULTURE - At [**2175-4-7**] 12:00 AM
 INVASIVE VENTILATION - START [**2175-4-7**] 12:02 AM
 MULTI LUMEN - START [**2175-4-7**] 02:14 AM
 [**Last Name (un) **] INSERTED - At [**2175-4-7**] 03:00 AM
   - Diagnostic paracentesis showed +SBP, antibiotics changed to
   Ceftriaxone, also given albumin per protocol
   - Had >3000cc hematemesis from bleeding varices, rec'd 8u PRBCs and 4u
   FFP; also Octreotide + Protonix gtts, IV Vit K
   - Intubated for airway protection and [**1-16**] respiratory distress, CXR w/
   likely aspiration of blood
   - Right femoral CVL placed for additional access to large-bore PIVs
   - EGD showed blood in the esophagus and varices, but could not do
   banding; ([**Last Name (un) 466**]) [**State 1497**] tube placed
   - getting electrolyte repletion [**1-16**] large # blood products
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2175-4-6**] 09:00 PM
   Ceftriaxone - [**2175-4-7**] 03:00 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Albuterol Inhaler
   Albumin 25% (12.5g / 50mL)
   Calcium Gluconate
   CeftriaXONE
   Magnesium Sulfate
   Octreotide Acetate
   Ondansetron
   Pantoprazole
   Pantoprazole
   Phytonadione
   Prochlorperazine
   Propofol
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-4-7**] 08:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.4
   Tcurrent: 32.9
C (91.2
   HR: 68 (67 - 123) bpm
   BP: 94/68(73) {82/46(57) - 120/90(136)} mmHg
   RR: 20 (13 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  9,970 mL
                                                                  6,468 mL
   PO:
                                                                    270 mL
           TF:
   IVF:
                                                                  5,200 mL
                                                                  2,510 mL
   Blood products:
   3,958 mL
   Total out:
                                                                      0 mL
                                                                  3,600 mL
   Urine:
   600 mL
   NG:
   3,000 mL
   Stool:
   Drains:
   Balance:
                                                                  9,970 mL
                                                                  2,868 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: Unstable Airway
   PIP: 27 cmH2O
   Plateau: 16 cmH2O
   Compliance: 66.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.31/34/62/15/-8
   Ve: 8.2 L/min
   PaO2 / FiO2: 89
   Physical Examination
   General - cachectic, frail, chronically ill appearing man in NAD,
   comfortable; +fetor hepaticus
   HEENT - NC/AT, PERRL/EOMI , +scleral icterus, dry MM, poor dentition;
   helmet on for [**Last Name (un) **]
   Neck - supple, no thyromegaly or JVD
   Lungs - CTA bilat, no r/rh/wh
   Heart - tachycardic, nl S1-S2, no MRG
   Abdomen - NABS, soft/NT, no rebound / guarding; +distended with flank
   distention, shifting dullness, fluid wave; unable to palpate HSM
   Extrem - WWP, no c/c/e, 2+ PDs
   Skin - no jaundice, +spider angiomata and stigmata of chronic liver
   disease
   Neuro
 intubated and sedated
   Labs / Radiology
   93 K/uL
   11.9 g/dL
   106 mg/dL
   0.5 mg/dL
   15 mEq/L
   4.1 mEq/L
   25 mg/dL
   112 mEq/L
   136 mEq/L
   34.0 %
   9.5 K/uL
        [image002.jpg]
                             [**2175-4-6**]  10:03 PM
                             [**2175-4-7**]  01:05 AM
                             [**2175-4-7**]  02:39 AM
                             [**2175-4-7**]  04:22 AM
                             [**2175-4-7**]  05:54 AM
   WBC
   13.9
   7.8
   9.5
   Hct
   21.9
   19
   28.7
   34.0
   Plt
   201
   79
   93
   Cr
   0.8
   0.5
   TCO2
   19
   18
   Glucose
   119
   135
   106
   Other labs: PT / PTT / INR:21.8/71.9/2.1, ALT / AST:18/24, Alk Phos / T
   Bili:32/2.2, Amylase / Lipase:38/42, Differential-Neuts:81.0 %,
   Lymph:9.5 %, Mono:9.3 %, Eos:0.0 %, D-dimer:8990 ng/mL, Fibrinogen:114
   mg/dL, Lactic Acid:2.6 mmol/L, Albumin:1.5 g/dL, LDH:109 IU/L, Ca++:4.8
   mg/dL, Mg++:1.3 mg/dL, PO4:3.8 mg/dL
   Fluid analysis / Other labs: Ascites fluid: 1815 WBCs, 54% PMNs, 23%
   bands
   TProt 0.2, Gluc 127, LDH 33, Alb <1.0
   Imaging: EGD - Impression: Blood in the From the middle esophagus to
   the gastroesophageal junction; Varices at the lower third of the
   esophagus and gastroesophageal junction; Otherwise normal EGD to second
   part of the duodenum.
   Microbiology: Blood Cx pending x2
   Urine Cx pending (UA negative)
   Ascites Cx pending
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   48-yo man with chronic EtOH abuse and depression who presents after
   being found by his neigbors in squalor, with confusion and hypotension,
   also with ascites, colitis, anemia, and hyponatremia; now with SBP and
   large variceal bleed with [**Last Name (un) 466**] tube in place.
   .
   #. Variceal bleeding
 HD stable, but HCT still falling 34->27.
   [**Last Name (un) 466**] tube in place. Liver team aware, to re-scope this morning.
   - continue Octreotide, Protonix gtts
   - continue Abx as below
   - [**Last Name (un) 466**] in place, EGD today
   - appreciate Hepatology recs
   # Coagulopathy: INR still elevated, has received FFP and vit K. In
   addition, pt
s Ca is low in the setting of transfusion.
   -  transfuse HCT >30, will give 2 units now
   - transfuse FFP and PLT with pRBC
s, goal PLT>100
   - recheck fibrinogen, consider crycoprecipitate if <100
   - follow ionized calcium
   .
   #. SBP - Pt w/ SBP on diagnostic paracentesis done prior to
   hematemesis.
   - continue Ceftriaxone
   - complete albumin dose (1.5g/kg day 1, 1g/kg day 3) for ppx of HRS
   - f/u Cx data
   .
   #. Hypotension - Improved with IVF hydration in ED, with improvement in
   mental status. Intravascularly dry on exam, has not been taking POs
   well recently. Also consider contribution from SBP. Baseline BP likely
   low given obvious chronic liver disease as below.
   - cont albumin / IVF hydration PRN
   - f/u blood cx sent in ED
   - cont Ceftriaxone for SBP as above
   .
   # Low urine outpt: hypovolemia, ATN vs abd compartment syndrome.
   Bladder pressures now 17
   - bladder scan
   - monitor bladder pressure
   - monitor cr for ATN
   - vol rescuscitate if bladder scan nl: normal saline
   .
   # Bilateral infiltrates: Aspiration pneumonitis vs pulmonary edema (
   vol rescus, ascitis,etc) vs ARDS. Pa)2/Fi02= 100
   - ARDSnet  ventilation: 6cc/kg
   .
   #. Confusion - Improved with IVF hydration as above, but also likely
   contribution from encephalopathy given mildly elevated ammonia but more
   importantly asterixis on exam. Now intubated / sedated.
   - continue albumin / IVF hydration and correction of hypotension as
   above
   - restart lactulose after cleared by Hepatology
   - will need therapeutic paracentesis as well once cleared by Hepatology
   .
   #. Colitis - Noted on CT, also with leukocytosis but no fever or other
   abdominal symptoms. Also w/o findings on exam. Distribution more
   concerning for infectious or inflammatory rather than ischemic. No
   recent illness, sick contacts, travel, or antibiotic use. CT does not
   appear particularly worrisome, more likely related to ascitic fluid.
   - f/u blood cx sent in ED
   - cont CTX as above for SBP
   - GI aware, will follow
   .
   #. Anemia - Likely multifactorial [**1-16**] chronic liver disease, chronic
   EtOH abuse, splenic sequestration, colitis, and now IVF hydration. Also
   Guaiac positive stools, and now variceal bleeding.
   - txf threshold 25-30 for now
   - maintain active T&C, large bore PIVs; right femoral CVL
   - cont Octreotide / PPI gtts
   - serial Hcts
   - GI and Hepatology aware
   .
   #. Hyponatremia - Likely [**1-16**] hypovolemia as intravascularly dry on
   exam, but also with contribution of drinking lots of free water.
   Improving.
   - continue to follow
   .
   #. Cirrhosis - Pt with long chronic daily EtOH use, physical exam
   findings of chronic liver disease and portal hypertension, and CT
   showing nodular liver and ascites. Labs also c/w cirrhosis, w/ elevated
   INR and low albumin. MELD 22, DF 77.
   - f/u hepatitis serologies
   - f/u RUQ U/S w/ Doppler
   - follow LFTs, coags, albumin
   .
   #. EtOH abuse - Pt w/ chronic daily EtOH abuse, although none in the
   last few days. No h/o DTs or withdrawal seizures. Now intubated,
   sedated. Received banana bag
   - daily IV thiamine for 3 days
   .
   #. FEN - NPO for now, IVF hydration, replete lytes PRN
   #. PPx - pbeumoboots, IV PPI [**Hospital1 **]
   #. Access - large-bore PIVs
   #. Communication - with patient
   #. FULL CODE
   #. Dispo - ICU overnight
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2175-4-6**] 09:00 PM
   18 Gauge - [**2175-4-7**] 01:18 AM
   Multi Lumen - [**2175-4-7**] 02:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2175-04-07 10:08:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: variceal bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PARACENTESIS - At [**2175-4-6**] 10:00 PM
 NASAL SWAB - At [**2175-4-6**] 10:00 PM
 URINE CULTURE - At [**2175-4-7**] 12:00 AM
 INVASIVE VENTILATION - START [**2175-4-7**] 12:02 AM
 MULTI LUMEN - START [**2175-4-7**] 02:14 AM
 [**Last Name (un) **] INSERTED - At [**2175-4-7**] 03:00 AM
 Large volume hematemesis
 Resuscitation - transfused 8units pRBC, 4units FFP, 9 Liters
   crystalloid
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2175-4-6**] 09:00 PM
   Ceftriaxone - [**2175-4-7**] 03:00 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-4-7**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.4
   Tcurrent: 32.9
C (91.2
   HR: 82 (67 - 123) bpm
   BP: 98/68(74) {82/46(57) - 120/90(136)} mmHg
   RR: 19 (13 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Bladder pressure: 17 (17 - 17) mmHg
   Total In:
                                                                  9,970 mL
                                                                  6,633 mL
   PO:
                                                                    270 mL
   TF:
   IVF:
                                                                  5,200 mL
                                                                  2,675 mL
   Blood products:
                                                                  3,958 mL
   Total out:
                                                                      0 mL
                                                                  3,652 mL
   Urine:
                                                                    652 mL
   NG:
                                                                  3,000 mL
   Stool:
   Drains:
   Balance:
                                                                  9,970 mL
                                                                  2,981 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: Unstable Airway
   PIP: 30 cmH2O
   Plateau: 25 cmH2O
   Compliance: 26.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.31/34/62/15/-8
   Ve: 8.8 L/min
   PaO2 / FiO2: 89
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, [**Last Name (un) **]
   tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic),
   hyperdynamic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: No(t) Cyanosis
   Musculoskeletal: Unable to stand
   Skin:  Warm, warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   11.9 g/dL
   93 K/uL
   106 mg/dL
   0.5 mg/dL
   15 mEq/L
   4.1 mEq/L
   25 mg/dL
   112 mEq/L
   136 mEq/L
   34.0 %
   9.5 K/uL
        [image002.jpg]
                             [**2175-4-6**]  10:03 PM
                             [**2175-4-7**]  01:05 AM
                             [**2175-4-7**]  02:39 AM
                             [**2175-4-7**]  04:22 AM
                             [**2175-4-7**]  05:54 AM
   WBC
   13.9
   7.8
   9.5
   Hct
   21.9
   19
   28.7
   34.0
   Plt
   201
   79
   93
   Cr
   0.8
   0.5
   TCO2
   19
   18
   Glucose
   119
   135
   106
   Other labs: PT / PTT / INR:21.8/71.9/2.1, ALT / AST:18/24, Alk Phos / T
   Bili:32/2.2, Amylase / Lipase:38/42, Differential-Neuts:81.0 %,
   Lymph:9.5 %, Mono:9.3 %, Eos:0.0 %, D-dimer:8990 ng/mL, Fibrinogen:114
   mg/dL, Lactic Acid:2.6 mmol/L, Albumin:1.5 g/dL, LDH:109 IU/L, Ca++:4.8
   mg/dL, Mg++:1.3 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Variceal bleed
   -presumed cirrhosis
   -large volume bleed
   -large number of varices esophageal and gastric. No active bleeding
   visualized
   -[**Last Name (un) **] tube in place - gastric balloon inflated
   -GI following - rescoping today
   -serial hct q2hr
   -large bore iv access x 2
   Anemia secondary to blood loss
   -large volume transfusion
   -follow lytes, plt, coag, fibrinogen, correct as needed
   -pRBC/FFP/plt transfusion as needed
   hypotension
   -large volume blood loss
   -fluid resuscitation
   Respiratory failure
   -b/l  infiltrates presumably due to aspiration
   -might also be developing ARDS from aspiration and/or large transfusion
   -ARDSnet ventilation
   Presumed cirrhosis
   -continue lactulose
   -abd US
   -might benefit therapeutic paracentesis - abd very distended
   ? colitis on imaging
   - related to elevated portal hypertension vs. infection vs. ischemia
   Metabolic acidosis
   -presumed saline acidosis
   -change crystalloid to LR
   hyponatremia
   -? related to cirrhosis and sig H2O intake
   -correcting
   EtOH abuse -
   follow, persistent tachy likely due to volume issue, received
   thiamine/folate already
   Renal failure -
   -minimal urine output though creat not bumped
   Remainder of plan per resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2175-4-6**] 09:00 PM
   18 Gauge - [**2175-4-7**] 01:18 AM
   Multi Lumen - [**2175-4-7**] 02:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 85 minutes
   Patient is critically ill

2175-04-08 07:44:00 Physician Resident Progress Note
Chief Complaint: NA
   24 Hour Events:
 ULTRASOUND - At [**2175-4-7**] 09:30 AM
 ENDOSCOPY - At [**2175-4-7**] 11:48 AM
 PARACENTESIS - At [**2175-4-7**] 04:04 PM
 ARTERIAL LINE - START [**2175-4-8**] 01:18 AM
   - varices banded
   - received 6 units pRBC's (12 units total), 2 units FFP (6 units
   total), 3 bags cryoprecipitate, 2 bags of platelets during the last 24
   hrs
   - bladder pressures rose yesterday from 15->25 and initially UOP was
   low
   - given concern for elevated abd pressures, paracentesis was performed
   with 3L  removed and bladder pressures [**Month (only) 202**] to 15
   - UOP picked up slightly in the evening to 20cc-30/hr
   - HCT without increase despite 6 units pRBC's
   - BP's slowly declining to SBP 80's and MAP's 55-60 -> [**Month (only) 202**] PEEP and
   sedation with little effect
   - minimally responsive to 1000cc bolus and trendelenburg
   - started levophed but began requiring increasing doses to get SBP >90
   - started vasopressin as well
   - called liver fellow, who is aware that pt's is more hypotensive and
   may not be increasing HCT appropriately; but no plan for repeat EGD
   just yet as risk of dislodging bands is high
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2175-4-6**] 09:00 PM
   Ceftriaxone - [**2175-4-8**] 02:02 AM
   Piperacillin/Tazobactam (Zosyn) - [**2175-4-8**] 04:49 AM
   Vanc [**4-7**]
   Infusions:
   Octreotide - 50 mcg/hour
   Norepinephrine - 0.12 mcg/Kg/min
   Propofol - 20 mcg/Kg/min
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Thiamine
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-4-8**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.5
   HR: 115 (68 - 115) bpm
   BP: 98/56(68) {86/49(59) - 98/56(68)} mmHg
   RR: 20 (16 - 22) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
    Bladder pressure: 15 (15 - 26) mmHg
   Total In:
                                                                 11,533 mL
                                                                  2,883 mL
   PO:
   TF:
   IVF:
                                                                  4,593 mL
                                                                  1,598 mL
   Blood products:
                                                                  6,940 mL
                                                                  1,285 mL
   Total out:
                                                                  7,071 mL
                                                                    110 mL
   Urine:
                                                                  1,071 mL
                                                                    110 mL
   NG:
                                                                  3,000 mL
   Stool:
   Drains:
                                                                  3,000 mL
   Balance:
                                                                  4,462 mL
                                                                  2,774 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.45/31/153/20/0
   Ve: 9.2 L/min
   PaO2 / FiO2: 306
   Physical Examination
   General - cachectic, frail, chronically ill appearing man in NAD,
   comfortable; +fetor hepaticus
   HEENT - NC/AT, PERRL/EOMI, +amblyopia, +scleral icterus, dry MM, poor
   dentition
   Neck - supple, no thyromegaly or JVD
   Lungs - CTA bilat, no r/rh/wh
   Heart - tachycardic, nl S1-S2, no MRG
   Abdomen - NABS, soft/NT, no rebound / guarding; +distended with flank
   distention, shifting dullness, fluid wave; unable to palpate HSM
   Extrem - WWP, no c/c/e, 2+ PDs
   Skin - no jaundice, +spider angiomata and stigmata of chronic liver
   disease
   Neuro
 intubated and sedated
   Labs / Radiology
   125 K/uL
   10.4 g/dL
   102 mg/dL
   1.1 mg/dL
   20 mEq/L
   4.3 mEq/L
   33 mg/dL
   104 mEq/L
   132 mEq/L
   28.7 %
   14.3 K/uL
        [image002.jpg]
                             [**2175-4-7**]  04:22 AM
                             [**2175-4-7**]  05:54 AM
                             [**2175-4-7**]  08:57 AM
                             [**2175-4-7**]  10:01 AM
                             [**2175-4-7**]  10:09 AM
                             [**2175-4-7**]  02:48 PM
                             [**2175-4-7**]  03:11 PM
                             [**2175-4-7**]  09:30 PM
                             [**2175-4-8**]  02:59 AM
                             [**2175-4-8**]  03:09 AM
   WBC
   9.5
   11.2
   10.5
   14.3
   Hct
   34.0
   27.7
   26.8
   28.8
   27.4
   28.7
   Plt
   93
   66
   81
   125
   Cr
   0.8
   1.0
   1.0
   1.1
   TCO2
   18
   23
   22
   Glucose
   108
   101
   73
   102
   Other labs: PT / PTT / INR:20.6/49.0/1.9, ALT / AST:18/24, Alk Phos / T
   Bili:32/2.2, Amylase / Lipase:38/42, Differential-Neuts:81.0 %,
   Lymph:9.5 %, Mono:9.3 %, Eos:0.0 %, D-dimer:8990 ng/mL, Fibrinogen:167
   mg/dL, Lactic Acid:1.7 mmol/L, Albumin:1.5 g/dL, LDH:109 IU/L, Ca++:8.8
   mg/dL, Mg++:2.4 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 OLIGURIA/ANURIA
 PNEUMONIA, ASPIRATION
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   48-yo man with chronic EtOH abuse and depression who presents after
   being found by his neigbors in squalor, with confusion and hypotension,
   also with ascites, colitis, anemia, and hyponatremia; now with SBP and
   large variceal bleed with [**Last Name (un) 466**] tube in place.
   .
   #. Variceal bleeding
 HCT has not bumped appropriately despite
   numerous transfusions. Now s/p banding and [**Last Name (un) 466**] tube in place.
   Liver team aware and following
   - continue Octreotide, Protonix gtts
   - continue Abx as below
   - [**Last Name (un) 466**] in place
   - appreciate Hepatology recs
   # Coagulopathy: INR still elevated, has received FFP and vit K. In
   addition, pt
s Ca is low in the setting of transfusion.
   -  transfuse HCT >30, will give 2 units now
   - transfuse FFP and PLT with pRBC
s, goal PLT>100
   - recheck fibrinogen, consider crycoprecipitate if <100
   - follow ionized calcium
   .
   #. SBP - Pt w/ SBP on diagnostic paracentesis done prior to
   hematemesis.
   - vanc/zosyn
   - complete albumin dose (1.5g/kg day 1, 1g/kg day 3) for ppx of HRS
   - f/u Cx data
   .
   #. Hypotension
 Ddx sepsis vs bleeding. Improved with IVF hydration in
   ED, with improvement in mental status. Intravascularly dry on exam, has
   not been taking POs well recently. Also consider contribution from SBP.
   Baseline BP likely low given obvious chronic liver disease as below.
   - continue levophed, UOP>20 cc/hr, MAP>60
   - cont albumin / IVF hydration PRN
   - f/u blood cx sent in ED
   - continue Vanc/levophed
   - Q8H HCT, coags, calcium
   .
   # Low urine outpt: hypovolemia, ATN vs abd compartment syndrome.
   Bladder pressures now 17
   - bladder scan
   - monitor bladder pressure
   - monitor cr for ATN
   - vol rescuscitate if bladder scan nl: normal saline
   .
   # Bilateral infiltrates: Aspiration pneumonitis vs pulmonary edema (
   vol rescus, ascitis,etc) vs ARDS. Pa)2/Fi02= 100
   - initially on ARDSnet  ventilation: 6cc/kg, but with improvement in
   CXR and ratio, likely not ARDS
   .
   #. Confusion - Improved with IVF hydration as above, but also likely
   contribution from encephalopathy given mildly elevated ammonia but more
   importantly asterixis on exam. Now intubated / sedated.
   - continue albumin / IVF hydration and correction of hypotension as
   above
   - restart lactulose after cleared by Hepatology
   - will need therapeutic paracentesis as well once cleared by Hepatology
   .
   #. Colitis - Noted on CT, also with leukocytosis but no fever or other
   abdominal symptoms. Also w/o findings on exam. Distribution more
   concerning for infectious or inflammatory rather than ischemic. No
   recent illness, sick contacts, travel, or antibiotic use. CT does not
   appear particularly worrisome, more likely related to ascitic fluid.
   - f/u blood cx sent in ED
   - GI aware, will follow
   .
   #. Anemia - Likely multifactorial [**1-16**] chronic liver disease, chronic
   EtOH abuse, splenic sequestration, colitis, and now IVF hydration. Also
   Guaiac positive stools, and now variceal bleeding.
   - txf threshold 25-30 for now
   - maintain active T&C, large bore PIVs; right femoral CVL
   - cont Octreotide / PPI gtts
   - serial Hcts
   - GI and Hepatology aware
   .
   #. Hyponatremia - Likely [**1-16**] hypovolemia as intravascularly dry on
   exam, but also with contribution of drinking lots of free water.
   Improving.
   - continue to follow
   .
   #. Cirrhosis - Pt with long chronic daily EtOH use, physical exam
   findings of chronic liver disease and portal hypertension, and CT
   showing nodular liver and ascites. Labs also c/w cirrhosis, w/ elevated
   INR and low albumin. MELD 22, DF 77.
   - f/u hepatitis serologies
   - f/u RUQ U/S w/ Doppler
   - follow LFTs, coags, albumin
   .
   #. EtOH abuse - Pt w/ chronic daily EtOH abuse, although none in the
   last few days. No h/o DTs or withdrawal seizures. Now intubated,
   sedated. Received banana bag
   - daily IV thiamine for 3 days
   .
   #. FEN - NPO for now, IVF hydration, replete lytes PRN
   #. PPx - pbeumoboots, IV PPI [**Hospital1 **]
   #. Access - large-bore PIVs
   #. Communication - with patient, will need to call mother
   #. FULL CODE
   #. Dispo - ICU overnight
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2175-4-6**] 09:00 PM
   18 Gauge - [**2175-4-7**] 01:18 AM
   Multi Lumen - [**2175-4-7**] 02:14 AM -> resite to RIJ
   Arterial Line - [**2175-4-8**] 01:18 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2175-04-08 08:24:00 Physician Attending Progress Note
Chief Complaint: variceal bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan
   24 Hour Events:
   total product  since admission 12 units PRBC, 6 units ffp, 3 cryp 2
   plts.
   Overnight blood pressures started to drop maps high 50
s.  Decreased
   PEEP, fluids, decreased sedation then transitioned to moderate dose
   levophed.  Changed to Zosyn and vanc.  Albumin helped with pressors
   requirement.
 ULTRASOUND - At [**2175-4-7**] 09:30 AM
 ENDOSCOPY - At [**2175-4-7**] 11:48 AM
 PARACENTESIS - At [**2175-4-7**] 04:04 PM  3L Bladder pressures down to
   15 from 26 now urine 20-30cc
 ARTERIAL LINE - START [**2175-4-8**] 01:18 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2175-4-6**] 09:00 PM
   Ceftriaxone - [**2175-4-8**] 02:02 AM
   Piperacillin/Tazobactam (Zosyn) - [**2175-4-8**] 04:49 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Norepinephrine - 0.12 mcg/Kg/min
   Propofol - 20 mcg/Kg/min
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   chlorhex
   thiamine 100mg x 3 days
   Vanc 1gm
   Zosyns
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-4-8**] 08:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.5
   HR: 115 (77 - 115) bpm
   BP: 98/56(68) {86/49(59) - 98/56(68)} mmHg
   RR: 20 (16 - 22) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
   Bladder pressure: 15 (15 - 26) mmHg
   Total In:
                                                                 11,533 mL
                                                                  2,911 mL
   PO:
   TF:
   IVF:
                                                                  4,593 mL
                                                                  1,626 mL
   Blood products:
                                                                  6,940 mL
                                                                  1,285 mL
   Total out:
                                                                  7,071 mL
                                                                    110 mL
   Urine:
                                                                  1,071 mL
                                                                    110 mL
   NG:
                                                                  3,000 mL
   Stool:
   Drains:
                                                                  3,000 mL
   Balance:
                                                                  4,462 mL
                                                                  2,802 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.45/31/153/20/0
   Ve: 9.2 L/min
   PaO2 / FiO2: 306
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, bleeding
   from gums
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic),
   hyperdynamic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended and tense
   Extremities: No(t) Cyanosis
   Musculoskeletal: Unable to stand
   Skin:  Warm, warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Lines-Groin line not oozing
   Labs / Radiology: Chest port  5cm above carina infiltrates improved.
   10.4 g/dL
   125 K/uL
   102 mg/dL
   1.1 mg/dL
   20 mEq/L
   4.3 mEq/L
   33 mg/dL
   104 mEq/L
   132 mEq/L
   28.7 %
   14.3 K/uL
        [image002.jpg]
                             [**2175-4-7**]  04:22 AM
                             [**2175-4-7**]  05:54 AM
                             [**2175-4-7**]  08:57 AM
                             [**2175-4-7**]  10:01 AM
                             [**2175-4-7**]  10:09 AM
                             [**2175-4-7**]  02:48 PM
                             [**2175-4-7**]  03:11 PM
                             [**2175-4-7**]  09:30 PM
                             [**2175-4-8**]  02:59 AM
                             [**2175-4-8**]  03:09 AM
   WBC
   9.5
   11.2
   10.5
   14.3
   Hct
   34.0
   27.7
   26.8
   28.8
   27.4
   28.7
   Plt
   93
   66
   81
   125
   Cr
   0.8
   1.0
   1.0
   1.1
   TCO2
   18
   23
   22
   Glucose
   108
   101
   73
   102
   Other labs: PT / PTT / INR:20.6/49.0/1.9, ALT / AST:18/24, Alk Phos / T
   Bili:32/2.2, Amylase / Lipase:38/42, Differential-Neuts:81.0 %,
   Lymph:9.5 %, Mono:9.3 %, Eos:0.0 %, D-dimer:8990 ng/mL, Fibrinogen:167
   mg/dL, Lactic Acid:1.7 mmol/L, Albumin:1.5 g/dL, LDH:109 IU/L, Ca++:8.8
   mg/dL, Mg++:2.4 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   Variceal bleed
   -presumed cirrhosis
   -large volume bleed
   -large number of varices esophageal and gastric banded yesterday
   -serial hct q6
   -large bore iv access x 2
   -Continue Octreotide/Protonix/Albumin
   -Follow Ca, Plt, INR, Fibrinogen
   Sepsis/hypotension
   -Hypothermic, pressor requirement, tachy broadened [**Year (4 digits) 114**] coverage will
   follow cx x 48 hours and [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 114**] based on cx results
   -Will follow a-line variation for fluid resposivness
   -Low albumin third spaces
   -reduce propofol and will consider fent and ativan bolus.
   -Check levels of [**Last Name (NamePattern1) 114**] and renal dose.
   Respiratory failure
   -b/l  infiltrates presumably due to aspiration FIO2 ratio improved PEEP
   reduced
   -Will continue current settings
   Presumed cirrhosis
   -continue lactulose
   -abd US
   -Will consider repeat paracentesis for elevated baldder pressures and
   follow urine output - abd very distended
   ? colitis on imaging
   - related to elevated portal hypertension vs. infection vs. ischemia
   Metabolic acidosis
   -presumed saline acidosis
   -change crystalloid to LR improved
   hyponatremia
   -? related to cirrhosis and sig H2O intake
   -correcting
   EtOH abuse -
   follow, persistent tachy likely due to volume issue, received
   thiamine/folate already
   -On propofol will consider change to ativan given
   Renal failure -
   -minimal urine output though creat not bumped
   -Will follow bladder
   Remainder of plan per resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2175-4-6**] 09:00 PM
   18 Gauge - [**2175-4-7**] 01:18 AM
   Multi Lumen - [**2175-4-7**] 02:14 AM Fem line will change to IJ today
   Arterial Line - [**2175-4-8**] 01:18 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code  Will call mother to discuss gravity of
   situation.
   Disposition :
   Total time spent:  40 minutes